US08222416B2
To a solution of 2-(tetrahydro-pyran-4-yl)-ethanol (13 g, 0.1 mol) in dichloromethane (150 mL) was added pyridinium chlorochromate (43 g, 0.2 mol) portion-wise at room temperature. The dark suspension was stirred at room temperature for 5 h. The reaction mixture was filtered through a short pad of silica gel. The filtrate was concentrated in vacuo to afford (tetrahydro-pyran-4-yl)-acetaldehyde (6.5 g, 50%) as a yellow oil which was used in the next step without purification.

reactant | 2-(tetrahydro-pyran-4-yl)-ethanol | 0.1 mol, 13 g | O1CCC(CC1)CCO | C7H14O2
reactant | pyridinium chlorochromate | 0.2 mol, 43 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | (tetrahydro-pyran-4-yl)-acetaldehyde | 6.5 g, 50% | O1CCC(CC1)CC=O | C7H12O2
